US07485634B2
To a stirred solution of 2-(1-tert-butoxycarbonylindol-3-yl)propionitrile (4.00 g, 14.8 mmol) in DCM (10 mL) was added TFA (10 mL) with caution. After 1 hour, the reaction was diluted with DCM (40 mL), washed with water (2×40 mL) and brine, then dried (Na2SO4), and concentrated under reduced pressure to give 2-(1H-indol-3-yl)propionitrile (2.5 g, 99%) as a pale brown solid; 1H-NMR (CDCl3): δ 8.25 (1H, d), 7.69 (1H, s), 7.65 (1H, d), 7.45 (1H, app t), 7.37 (1H, app t), 4.12 (1H, q), 1.79 (3H, d).

reactant | 2-(1-tert-butoxycarbonylindol-3-yl)propionitrile | 14.8 mmol, 4.00 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)C(C#N)C | C16H18N2O2
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(1H-indol-3-yl)propionitrile | 2.5 g, 99% | N1C=C(C2=CC=CC=C12)C(C#N)C | C11H10N2
